US06417362B1
7-Chloro-2-cyclohexyl-2,3-dihydro-6-[4-(3,3-diphenyl-1-propyl)piperazin-1-yl]-1H-isoindol-1-one
Trifluoroacetic acid (0.125 ml) was added at 0° C. to a solution of 6-[4-(t-butoxycarbonyl)piperazin-1-yl]-7-chloro-2-cyclohexyl-2,3-dihydro-1H-isoindol-1-one (43 mg, 0.1 mmol), obtained in Example 45, in dichloromethane (1 ml). The mixture was stirred at room temperature for 2 hr. The reaction solution was concentrated under the reduced pressure. A saturated aqueous NaHCO3 solution was then added thereto. The mixture was extracted with chloroform. The extract was washed with saturated saline, and then dried over anhydrous MgSO4. The solvent was then removed by distillation under the reduced pressure. Potassium carbonate (28 mg, 0.2 mmol) and 3,3-diphenylpropyl bromide (30 mg, 0.11 mmol) were added at 0° C. to a solution of the crude product, thus obtained, in N,N-dimethylformamide (1 ml). The mixture was stirred at 50° C. for 5 hr. The temperature of the system was then returned to room temperature, and a 0.1 N aqueous citric acid solution was added thereto. The mixture was extracted with ethyl acetate, washed with saturated saline, and then dried over anhydrous MgSO4. The solvent was then removed by distillation under the reduced pressure. The residue was purified by preparative TLC (chloroform:methanol=30:1) to give 17 mg (32%) of the title compound.

reactant | Trifluoroacetic acid | 0.125 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 6-[4-(t-butoxycarbonyl)piperazin-1-yl]-7-chloro-2-cyclohexyl-2,3-dihydro-1H-isoindol-1-one | 0.1 mmol, 43 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C2CN(C(C2=C1Cl)=O)C1CCCCC1 | C23H32ClN3O3
reactant | Potassium carbonate | 0.2 mmol, 28 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3,3-diphenylpropyl bromide | 0.11 mmol, 30 mg | C1(=CC=CC=C1)C(CCBr)C1=CC=CC=C1 | C15H15Br
reactant | citric acid | 0.1 N | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 7-Chloro-2-cyclohexyl-2,3-dihydro-6-[4-(3,3-diphenyl-1-propyl)piperazin-1-yl]-1H-isoindol-1-one | 17 mg, 32% | ClC=1C(=CC=C2CN(C(C12)=O)C1CCCCC1)N1CCN(CC1)CCC(C1=CC=CC=C1)C1=CC=CC=C1 | C33H38ClN3O
